US09388173B2
Step 1: Ethyl 2-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)acetate
To a solution of 2-chloro-7H-pyrrolo[2,3-d]pyrimidine (1 g, 6.54 mmol) in 25 mL THF was added t-BuOK (1.1 g, 9.81 mmol) and ethyl 2-bromoacetate (1.31 g, 7.84 mmol). The mixture was stirred and heated to reflux temperature for 2 h. After cooling the mixture was extracted with EtOAc, washed with brine, dried over Na2SO4 and concentrated to yield a crude product which was used in next step without further purification (940 mg Yield 60%). LCMS (m/z): 240.1 (M+1).

reactant | 2-chloro-7H-pyrrolo[2,3-d]pyrimidine | 6.54 mmol, 1 g | ClC=1N=CC2=C(N1)NC=C2 | C6H4ClN3
reactant | t-BuOK | 9.81 mmol, 1.1 g | CC(C)(C)[O-].[K+]
reactant | ethyl 2-bromoacetate | 7.84 mmol, 1.31 g | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | Ethyl 2-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)acetate | Yield 60% | ClC=1N=CC2=C(N1)N(C=C2)CC(=O)OCC | C10H10ClN3O2
